US07091228B2
4-(4′-{[4-(4-Chlorophenyl)-1,3-thiazol-2-yl]amino}-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoic acid
In a 8-mL screw-cap vial, a mixture of 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoic acid (60 mg, 0.20 mmol) and 2-(4-chlorophenyl)-2-oxoethyl thiocyanate (64 mg, 0.30 mmol) in 4 mL n-butanol was heated at 90° C. overnight. The solvent was removed under reduced pressure. The mixture was dissolved in 5 mL 1:4 MeOH/DMF and purified by reverse-phase HPLC to provide 6.8 mg (7%) of the desired product. 1H NMR (400 MHz, DMSO-d6) δ 11.90 (br s, 1 H), 10.50 (s, 1 H), 7.75–8.00 (m, 10 H), 7.50 (m, 3 H), 3.30 (m, 2 H), 1.05 (s, 6 H); LC-MS m/z 491.2 (MH+), ret. time 3.83 min.

reactant | 4-(4′-amino-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoic acid | 0.20 mmol, 60 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)O)(C)C)=O | C18H19NO3
reactant | 2-(4-chlorophenyl)-2-oxoethyl thiocyanate | 0.30 mmol, 64 mg | ClC1=CC=C(C=C1)C(CSC#N)=O | C9H6ClNOS
solvent | n-butanol | 4 mL | C(CCC)O | C4H10O
product | 4-(4′-{[4-(4-Chlorophenyl)-1,3-thiazol-2-yl]amino}-1,1′-biphenyl-4-yl)-2,2-dimethyl-4-oxobutanoic acid | 6.8 mg, 7% | ClC1=CC=C(C=C1)C=1N=C(SC1)NC1=CC=C(C=C1)C1=CC=C(C=C1)C(CC(C(=O)O)(C)C)=O | C27H23ClN2O3S
